US07368578B2
A mixture of (5-{2-[4-(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxyphenyl]ethyl}-2-phenyl-1,3-oxazol-4-yl)methanol (0.78 g) and thionyl chloride (2 mL) was stirred at 0° C. for 30 min. After concentration of the reaction mixture, ethyl acetate was poured into the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. To a solution of the obtained residue in tetrahydrofuran (10 mL) was added a mixture of diethyl malonate (1.36 g), sodium hydride (60% in oil, 0.33 g) and tetrahydrofuran (30 mL) at 0° C. After stirring at room temperature for 15 hr, the mixture was refluxed for 1 hr. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with dilute hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 2-ethoxycarbonyl-3-(5-{2-[4-(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxyphenyl]ethyl}-2-phenyl-1,3-oxazol-4-yl)propionate (0.55 g, yield 53%) as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:6, v/v).

reactant | (5-{2-[4-(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxyphenyl]ethyl}-2-phenyl-1,3-oxazol-4-yl)methanol | 0.78 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCC1=C(N=C(O1)C1=CC=CC=C1)CO | C29H26N2O4
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-ethoxycarbonyl-3-(5-{2-[4-(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxyphenyl]ethyl}-2-phenyl-1,3-oxazol-4-yl)propionate | 0.55 g, yield 53% | C(C)OC(=O)C(C(=O)OCC)CC=1N=C(OC1CCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=CC=C1 | C36H36N2O7
